US09428499B2
Step-d: Synthesis of 3-Amino-N-(1-carbamoylcyclopropyl)benzamide
To the suspension of N-(1-carbamoylcyclopropyl)-3-nitrobenzamide (0.28 g, 1.123 mmol) in methanol (5 ml), Pd—C (0.05 g) was added under nitrogen and stirred the reaction mixture under hydrogen atmosphere at room temperature. After 2 hr, reaction mixture was filtered and concentrated under vacuum to afford solid compound (0.2 g, 81%).

reactant | N-(1-carbamoylcyclopropyl)-3-nitrobenzamide | 1.123 mmol, 0.28 g | C(N)(=O)C1(CC1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H11N3O4
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd—C | 0.05 g | [Pd] | Pd
product | 3-Amino-N-(1-carbamoylcyclopropyl)benzamide | 0.2 g, 81% | NC=1C=C(C(=O)NC2(CC2)C(N)=O)C=CC1 | C11H13N3O2
